US06787551B2
4-Anilinyl-6-chloropyrimidine
4,6-Dichloropyrimidine (1 g) and aniline (746 mg) were added to N-methylpyrolidin-2-one (20 mL) and stirred at 120° C. for 24 hours. The resultant mixture was cooled to room temperature, to which ethyl acetate (30 mL) and brine (30 mL) were added, and stirred for 30 minutes. An organic layer was separated, dried (MgSO4), filtered and then concentrated under reduced pressure. The title compound (950 mg) was obtained by silica gel column chromatography (ethyl acetate/n-hexane=1/5).

reactant | 4,6-Dichloropyrimidine | 1 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | aniline | 746 mg | NC1=CC=CC=C1 | C6H7N
reactant | N-methylpyrolidin-2-one | 20 mL | CN1C(CCC1)=O | C5H9NO
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 4-Anilinyl-6-chloropyrimidine | 950 mg | N(C1=CC=CC=C1)C1=NC=NC(=C1)Cl | C10H8ClN3
